US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (3.8 mL) was added to a solution mixture of methyl 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate (0.84 g) in methanol (4.2 mL) and dioxane (4.2 mL) at room temperature, followed by stirring at the same temperature for 3 hours and 10 minutes. After adjusting the pH to 4.9 with a 10% aqueous solution of citric acid, chloroform was added thereto. The organic layer was separated, washed with water and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.80 g of 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a white solid.

reactant | sodium hydroxide | 3.8 mL | [OH-].[Na+]
reactant | methyl 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.84 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)OC)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)CC | C33H33N3O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 4.2 mL | CO | CH4O
solvent | dioxane | 4.2 mL | O1CCOCC1 | C4H8O2
product | 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 0.80 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)CC | C32H31N3O5
